US09388189B2
b) N-(2-Ethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-methoxybenzenesulfonamide
N-(5-Bromo-2-ethylpyridin-3-yl)-4-methoxybenzenesulfonamide (461 mg, 1.06 mmol), bis(pinacolato)diboron (400 mg, 1.58 mmol), potassium acetate (310 mg, 3.16 mmol), and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (40 mg, 0.05 mmol) were suspended in dioxane (10 ml) and stirred overnight at 100° C. After usual work-up with water and ethyl acetate, the reaction crude was purified by flash chromatography using SP1® Purification System (0% to 100%, hexane-ethyl acetate) to obtain 246 mg of the title compound as a solid (56% yield). Purity: 99%.

reactant | N-(5-Bromo-2-ethylpyridin-3-yl)-4-methoxybenzenesulfonamide | 1.06 mmol, 461 mg | BrC=1C=C(C(=NC1)CC)NS(=O)(=O)C1=CC=C(C=C1)OC | C14H15BrN2O3S
reactant | bis(pinacolato)diboron | 1.58 mmol, 400 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.16 mmol, 310 mg | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-Ethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-methoxybenzenesulfonamide | 246 mg, 56% yield | C(C)C1=NC=C(C=C1NS(=O)(=O)C1=CC=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C | C20H27BN2O5S
